US06380218B1
3-{3-[4-(1-Hydroxy-1-methyl-ethyl)-benzylcarbamoyl]-pyridin-2-yloxy}-benzoicacid methyl ester
To a stirred solution of 2-(3-Methoxycarbonyl-phenoxy)-nicotinic acid (0.400 grams, 1.463 mmole), 2-(4-Aminomethyl-phenyl)-propan-2-ol (0.266 grams, 1.61 mmole), and 1-hydroxybenzotriazole hydrate (0.237 grams, 1.755 mmole) in dry dimethylformamide (20 ml) was added 2-diethylaminoethyl chloride hydrochloride (0.365 grams, 1.90 mmole) and stirred over night. The mixture was diluted with water and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried over MgSO4, filtered and concentrated to give a white foam. (0.360 g); MS (m/e) 420 (M++1); 1H NMR (CDCl3) d 1.50 (6H, s), 3.90 (3H, s), 4.70 (2H, d, J=5.60 Hz), 7.20-8.65 (12H, m).

reactant | 2-(3-Methoxycarbonyl-phenoxy)-nicotinic acid | 1.463 mmole, 0.400 grams | COC(=O)C=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1 | C14H11NO5
reactant | 2-(4-Aminomethyl-phenyl)-propan-2-ol | 1.61 mmole, 0.266 grams | NCC1=CC=C(C=C1)C(C)(C)O | C10H15NO
reactant | 1-hydroxybenzotriazole hydrate | 1.755 mmole, 0.237 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 2-diethylaminoethyl chloride hydrochloride | 1.90 mmole, 0.365 grams | Cl.C(C)N(CCCl)CC
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-{3-[4-(1-Hydroxy-1-methyl-ethyl)-benzylcarbamoyl]-pyridin-2-yloxy}-benzoicacid methyl ester | COC(C1=CC(=CC=C1)OC1=NC=CC=C1C(NCC1=CC=C(C=C1)C(C)(C)O)=O)=O | C24H24N2O5
